US06248770B1
d. 4-chloro-3-nitro-N-tert.butyloxycarbonyl-phenylalanine
5.7 g (17.8 mmol) of 4-chloro-3-nitro-phenylalanine-hydrochloride are dissolved in 50 ml dioxane and 25 ml water and, after the addition of 5.5 ml (39.1 mmol) of triethylamine and 4.8 g (21.3 mmol) of di-tert.butyl-dicarbonate, stirred for 18 hours at ambient temperature. Then the mixture is diluted with 0.5 M potassium hydrogen sulphate solution and extracted with ethyl acetate. The combined organic extracts are dried and concentrated by evaporation. Yield: 6.3 g (100% of theory), Rf value: 0.20 (silica gel; methylene chloride/methanol=9:1).

reactant | 4-chloro-3-nitro-phenylalanine-hydrochloride | 17.8 mmol, 5.7 g | Cl.ClC1=C(C=C(C[C@H](N)C(=O)O)C=C1)[N+](=O)[O-]
reactant | water | 25 ml | O | H2O
reactant | triethylamine | 39.1 mmol, 5.5 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert.butyl-dicarbonate | 21.3 mmol, 4.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | potassium hydrogen sulphate | 0.5 M | S(=O)(=O)(O)[O-].[K+]
product | 4-chloro-3-nitro-N-tert.butyloxycarbonyl-phenylalanine | ClC1=C(C=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)O)C=C1)[N+](=O)[O-] | C14H17ClN2O6
